US07244759B2
A solution of (1S)-7-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methanesulfonyl-ethyl]-2,3-dihydro-isoindol-1-one (0.85 g, 2.0 mmol) and 2-furoyl chloride (0.40 mL, 4.1 mmol) in THF (5 mL) was heated to reflux for 17 hours. To the mixture was added methanol (4 mL). The solvent was removed in vacuo to give a solid, which was purified with chromatography (Silica Gel, EtOAc/hexane) to give (1S)-Furan-2-carboxylic acid {2-[1-(3-ethoxy-4-methoxyphenyl)-2-methanesulfonyl-ethyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-amide as a solid (380 mg, 37% yield): mp 184-186° C.; 1H NMR (CDCl3) δ 1.45 (t, J=7 Hz, 3H, CH3), 2.86 (s, 3H, CH3), 3.76-3.80 (m, 1H, CHH), 3.83 (s, 3H, CH3), 4.10 (q, J=7 Hz, 2H, CH2), 4.56 (dd, J=10, 14 Hz, 1H, CHH), 5.90 (dd, J=5, 10 Hz, 1H, NCH), 6.57-6.58 (m, 1H, Ar), 6.81-6.84 (m, 1H, Ar), 7.10-7.13 (m, 2H, Ar), 7.27-7.28 (m, 1H, Ar), 7.47-7.50 (m, 1H, Ar), 7.63-7.69 (m, 2H,Ar), 8.84 (d, J=9 Hz, 1H, Ar), 10.39 (s, 1H, NH); 13C NMR (CDCl3) δ 14.70, 41.65, 48.74, 54.68, 55.95, 60.37, 64.55, 111.51, 112.51, 112.75, 115.76, 116.47, 118.42, 120.42, 125.03, 129.34, 131.26, 136.15, 137.25, 145.40, 147.05, 148.63, 149.75, 156.49, 167.51, 169.39. Analy, calculated for C25H24N2O8S: C, 58.59; H, 4.72; N, 5.47. Found: C, 58.34; H, 4.86; N, 5.38.

reactant | (1S)-7-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-2-methanesulfonyl-ethyl]-2,3-dihydro-isoindol-1-one | 2.0 mmol, 0.85 g | NC=1C=CC=C2CN(C(C12)=O)[C@H](CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC | C20H24N2O5S
reactant | 2-furoyl chloride | 4.1 mmol, 0.40 mL | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | methanol | 4 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (1S)-Furan-2-carboxylic acid {2-[1-(3-ethoxy-4-methoxyphenyl)-2-methanesulfonyl-ethyl]-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 380 mg, 37% yield | C(C)OC=1C=C(C=CC1OC)[C@@H](CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)NC(=O)C=1OC=CC1)=O | C25H24N2O8S
